* C:\Users\marth\Documents\GitHub\TP-ELECTRO1\spice\Eldiego.asc
Q1 N001 N002 N003 0 Qbc547b
Q2 vo P001 N005 0 Qbc547b
Q3 N001 N001 +vcc 0 Qbc557b
Q4 vo N001 +vcc 0 Qbc557b
J1 N004 -vee P002 MPF102
Rs1 N002 Vin 560
Rj P002 -vee 3.4k
V2 +vcc 0 18
V3 0 -vee 18
R4 N005 N004 1
V1 Vin 0 SINE(0 5m 1k) AC 10m
R2 P001 a 560
V4 0 a SINE(0 5m 1k)
R3 N004 N003 45
R1 NC_01 0 10k
.model NPN NPN
.model PNP PNP
.lib C:\Users\marth\Documents\LTspiceXVII\lib\cmp\standard.bjt
.model NJF NJF
.model PJF PJF
.lib C:\Users\marth\Documents\LTspiceXVII\lib\cmp\standard.jft
.inc jFet.txt
.tran 1m
.inc BC557B SP2.SP2
.inc BC547B SP2.SP2
.backanno
.end
